US08304557B2
tert-butyl {3-[(6-aminopyridin-3-yl)oxy]phenyl}carbamate
In the same manner as in Reference Example 34 and using tert-butyl {3-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate (16.4 g, 49.5 mmol), palladium carbon (50% water-containing product, 1.50 g) and methanol (100 mL) as starting materials, the title compound (15.9 g, quant.) was obtained as a yellow oil.

reactant | tert-butyl {3-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 49.5 mmol, 16.4 g | [N+](=O)([O-])C1=CC=C(C=N1)OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C16H17N3O5
catalyst | palladium carbon | 1.50 g | [C].[Pd]
solvent | methanol | 100 mL | CO | CH4O
product | tert-butyl {3-[(6-aminopyridin-3-yl)oxy]phenyl}carbamate | 15.9 g | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C16H19N3O3
